US08053431B2
To a solution of 4-(2-chloroethylamino)-3-nitro-benzoic acid methyl ester (12.7 g, 0.0492 mol) in methanol (500 mL) was added 10% Pd/C (1.3 g) under a N2 atmosphere. The reaction mixture was hydrogenated in a Parr apparatus at 3 kg pressure for 2 h. The catalyst was filtered over celite and the filtrate was concentrated affording 11.0 g (98%) of 3-amino-4-(2-chloroethylamino)-benzoic acid methyl ester as a solid.

reactant | 4-(2-chloroethylamino)-3-nitro-benzoic acid methyl ester | 0.0492 mol, 12.7 g | COC(C1=CC(=C(C=C1)NCCCl)[N+](=O)[O-])=O | C10H11ClN2O4
solvent | methanol | 500 mL | CO | CH4O
catalyst | Pd/C | 1.3 g | [Pd] | Pd
product | 3-amino-4-(2-chloroethylamino)-benzoic acid methyl ester | 11.0 g, 98% | COC(C1=CC(=C(C=C1)NCCCl)N)=O | C10H13ClN2O2
